US04101658
A solution of 3-hydrazonomethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid (93 mg) in a mixture of acetic anhydride (0.5 ml) and pyridine (0.2 ml) is kept at room temperature for 45 hours. The mixture is diluted with ether. The obtained precipitate is collected by filtration and dried to leave 3-(2-acetylhydrazono)methyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid monohydrate (101 mg). m.p. 184°-190° C (decomposition). Yield: 96%.

reactant | 3-hydrazonomethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid | 93 mg | N(N)=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C14H14N4O4S2
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 3-(2-acetylhydrazono)methyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid monohydrate | 101 mg, Yield: 96% | O.C(C)(=O)NN=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | InChI=1S/C16H16N4O5S2.H2O/c1-8(21)19-17-6-9-7-27-15-12(14(23)20(15)13(9)16(24)25)18-11(22)5-10-3-2-4-26-10;/h2-4,6,12,15H,5,7H2,1H3,(H,18,22)(H,19,21)(H,24,25);1H2/t12?,15-;/m1./s1
